US06727264B1
2-METHYL-N-(3-{1-[4-(PHENYLSULFANYL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure G and Scheme B1 using [(4-chlorobutyl)sulfanyl]benzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 410.6 (M+H)+.

reactant | [(4-chlorobutyl)sulfanyl]benzene | ClCCCCSC1=CC=CC=C1 | C10H13ClS
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[4-(PHENYLSULFANYL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCSC1=CC=CC=C1)C | C25H34N2OS
